US07566699B2
3-[2-(4-Aminophenyl)ethyl]-4-hydroxybenzofuran
A mixture of 3-[2-(4-acetylaminophenyl)ethyl]-4-hydroxybenzofuran (1.2 g) and n-propanol (4 mL)-5 mol/L aqueous sodium hydroxide solution (8 mL) was heated for ref lux overnight. The reaction mixture was cooled to room temperature. To the reaction mixture was added 2 mol/L hydrochloric acid (21 mL). The mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethylacetate. The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was treated with ethyl acetate. The precipitated crystals were collected by filtration and dried under reduced pressure to give the title compound (0.51 g).

reactant | 3-[2-(4-acetylaminophenyl)ethyl]-4-hydroxybenzofuran | 1.2 g | C(C)(=O)NC1=CC=C(C=C1)CCC1=COC2=C1C(=CC=C2)O | C18H17NO3
reactant | hydrochloric acid | 2 mol/L, 21 mL | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | n-propanol | -5 mol/L, 4 mL | C(CC)O | C3H8O
product | 3-[2-(4-Aminophenyl)ethyl]-4-hydroxybenzofuran | 0.51 g | NC1=CC=C(C=C1)CCC1=COC2=C1C(=CC=C2)O | C16H15NO2
